US09334245B2
P. (2S,4R)-5-Biphenyl-4-yl-2-hydroxymethyl-2-methyl-4-[(3H-[1,2,3]triazole-4-carbonyl)-amino]-pentanoic acid indan-5-yl ester (R4=H; R7=indanyl)
(2S,4R)-5-Biphenyl-4-yl-2-hydroxymethyl-2-methyl-4-[(3H-[1,2,3]triazole-4-carbonyl)-amino]-pentanoic acid (118 mg, 290 μmol), HOBt (118 mg, 871 μmol), and EDCI (154 μL, 871 μmol) were dissolved into DCM and stirred for 15 minutes. 5-Indanol (310 mg, 2.3 mmol) and 4-methylmorpholine (128 μL, 1.2 mmol) were added and the resulting mixture was stirred at room temperature for 2 hours. The reaction was quenched with water and the DCM layer was separated and concentrated. AcOH was added and the product was purified by preparative HPLC to yield the title compound (1.4 mg; purity 95%). MS m/z [M+H]+ calc'd for C31H32N4O4, 525.24. found 5254.

reactant | (2S,4R)-5-Biphenyl-4-yl-2-hydroxymethyl-2-methyl-4-[(3H-[1,2,3]triazole-4-carbonyl)-amino]-pentanoic acid | 290 μmol, 118 mg | C1(=CC=C(C=C1)C[C@H](C[C@@](C(=O)O)(C)CO)NC(=O)C=1NN=NC1)C1=CC=CC=C1 | C22H24N4O4
reactant | HOBt | 871 μmol, 118 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 871 μmol, 154 μL | CCN=C=NCCCN(C)C | C8H17N3
reactant | 5-Indanol | 2.3 mmol, 310 mg | C1CCC2=CC(=CC=C12)O | C9H10O
reactant | 4-methylmorpholine | 1.2 mmol, 128 μL | CN1CCOCC1 | C5H11NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (2S,4R)-5-Biphenyl-4-yl-2-hydroxymethyl-2-methyl-4-[(3H-[1,2,3]triazole-4-carbonyl)-amino]-pentanoic acid indan-5-yl ester | 1.4 mg | C1CCC2=CC(=CC=C12)OC([C@](C[C@@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NC(=O)C=1NN=NC1)(C)CO)=O | C31H32N4O4
